US04367238
An aqueous solution (25 ml) of potassium hydroxide (7.5 g) was added to a mixture of 6-(4-chlorophenoxy)-o-cresol (10.5 g) and dimethyl sulfate (8.6 ml) with stirring at room temperature, and refluxed under heating for an hour. After cooling, water was added to the reaction mixture and extracted with n-hexane. The extract was washed with water, dried over magnesium sulfate and evaporated to give oily 4-chlorophenyl 2-methoxy-3-methylphenyl ether (10.7 g).

reactant | potassium hydroxide | 25 ml, 7.5 g | [OH-].[K+]
reactant | 6-(4-chlorophenoxy)-o-cresol | 10.5 g | ClC1=CC=C(OC=2C=CC=C(C2O)C)C=C1 | C13H11ClO2
reactant | dimethyl sulfate | 8.6 ml | S(=O)(=O)(OC)OC | C2H6O4S
solvent | water | O | H2O
product | 4-chlorophenyl 2-methoxy-3-methylphenyl ether | 10.7 g | COC1=C(C=CC=C1C)OC1=CC=C(C=C1)Cl | C14H13ClO2
